US07772271B2
To a solution of 1-ethyl-6-methoxy-1H-indole-3-carbonitrile (2.5 g, 12.5 mmol) in 21 mL of THF is added LDA (23 mL, 22.5 mmol) at −78° C. After warming to 0° C. and stirring for 10 min, the mixture is re-cooled to −78° C. and B(O—iPr)3 (4.35 mL, 18.8 mmol) is added. After the addition, the reaction is allowed to warm to room temperature and stirred for about 1 h. 4-iodophenol (2.89 g, 13.1 mmol), PdCl2(dppf) (510 mg, 0.625 mmol), aqueous K2CO3 (25 mL, 50 mmol) and DMF (42 mL) is added and the reaction mixture is stirred at room temperature overnight. The organic solvent is evaporated under reduced pressure. The residue is washed with water and the mixture is filtered. The filtrate is concentrated to afford crude solid which is purified via column chromatography on silica gel using EtOAc/petroleum ether (1/5 to 2/1) as eluant to yield 73% of 1-ethyl-2-(4-hydroxyphenyl)-6-methoxy-1H-indole-3-carbonitrile.

reactant | 1-ethyl-6-methoxy-1H-indole-3-carbonitrile | 12.5 mmol, 2.5 g | C(C)N1C=C(C2=CC=C(C=C12)OC)C#N | C12H12N2O
reactant | LDA | 22.5 mmol, 23 mL | [Li+].CC(C)[N-]C(C)C
reactant | B(O—iPr)3 | 18.8 mmol, 4.35 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | 4-iodophenol | 13.1 mmol, 2.89 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | K2CO3 | 50 mmol, 25 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | THF | 21 mL | C1CCOC1 | C4H8O
catalyst | PdCl2(dppf) | 0.625 mmol, 510 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | DMF | 42 mL | CN(C)C=O | C3H7NO
product | 1-ethyl-2-(4-hydroxyphenyl)-6-methoxy-1H-indole-3-carbonitrile | 73% | C(C)N1C(=C(C2=CC=C(C=C12)OC)C#N)C1=CC=C(C=C1)O | C18H16N2O2
